US05648021
A mixture of 7.7 g of 2-bromo-6-hexyloxypyridine (prepared by reacting 2,6-dibromopyridine with sodium hexoxide in DMF), 3.9 g of trimethylsilylacetylene, 0.4 g of bis(triphenylphosphine)palladium(II) chloride and 0.05 g of copper (I) iodide in 100 ml of diethylamine is stirred at 20° C. for 12 hours. After the volatile constituents have been removed in a rotary evaporator, the mixture is filtered through SiO2 using dichloromethane; the crude 1-(2-bromopyridin-6-yl)-2-trimethylsilylethtne (7.5 g of melting point 24° to 27° C.) obtained is stirred for 1 hour at 20° C. in 100 ml of methanol with 25 ml of 1N aqueous NaOH solution. The solvent is evaporated, and the residue is chromatographed over SiO2 using dichloromethane/heptane 9:1, giving 4.3 g of 2-bromo-6-ethynylpyridine (brownish oil). A solution of 2 g of 2-bromo-6-ethynylpyridine in 50 ml of benzene to which 2.6 g of 2-bromo-6-hexyloxypyridine, 0.2 g of tetrakis(triphenylphisphine)palladium(0) and 30 ml of n-propylamine have been added is stirred at 20° C. for 10 hours. The volatile constituents are removed by distillation, and the residue is chromatographed over SiO2 using dichloromethane, giving 1.9 g of 1,2-bis(2-hexyloxypyridin-6-yl)ethyne. The latter is hydrogenated quantitatively in 50 ml of THF using Lindlar catalyst [Org. Synth. 46, 89 (1966)] to 1,2-bis(2-hexyloxypyridin-6-yl)ethene. The latter is dissolved in 500 ml of cyclohexane, 4 mol % of iodine are added, and the mixture is exposed to UV light for 10 hours at 25° C. in a quartz apparatus. Chromatography on SiO2 using dichloromethane and recrystallization from acetonitrile give 0.9 g of 2,7-bis(hexyloxy)-1,8-diazaphenanthrene as colorless crystals of melting point 91° C.

reactant | 2-bromo-6-hexyloxypyridine | 7.7 g | BrC1=NC(=CC=C1)OCCCCCC | C11H16BrNO
reactant | trimethylsilylacetylene | 3.9 g | C[Si](C)(C)C#C | C5H10Si
reactant | NaOH | 1N, 25 ml | [OH-].[Na+]
solvent | diethylamine | 100 ml | C(C)NCC | C4H11N
solvent | methanol | 100 ml | CO | CH4O
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.4 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper (I) iodide | 0.05 g | [Cu]I
product | 2-bromo-6-ethynylpyridine | 4.3 g | BrC1=NC(=CC=C1)C#C | C7H4BrN
